US04304914
Ethyl 1,4,5,6-Tetrahydro-2-methyl-4-(2-methoxyphenyl)-5-oxo-6,7-diphenyl-1,6-naphthyridine-3-carboxylate
This product is obtained using the procedure of Example 1 from diethyl 1,4-dihydro-4-(2-methoxyphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate and N-phenylbenzimidoyl chloride (3.1 g, 12.6%).

reactant | diethyl 1,4-dihydro-4-(2-methoxyphenyl)-2,6-dimethyl-3,5-pyridine dicarboxylate | COC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC | C20H25NO5
reactant | N-phenylbenzimidoyl chloride | 3.1 g | C1(=CC=CC=C1)N=C(C1=CC=CC=C1)Cl | C13H10ClN
product | Ethyl 1,4,5,6-Tetrahydro-2-methyl-4-(2-methoxyphenyl)-5-oxo-6,7-diphenyl-1,6-naphthyridine-3-carboxylate | CC=1NC=2C=C(N(C(C2C(C1C(=O)OCC)C1=C(C=CC=C1)OC)=O)C1=CC=CC=C1)C1=CC=CC=C1 | C31H28N2O4
